US06310076B1
N-[3-(4,4-Diphenylpiperidin-1-yl)propyl]-N-methylacetoacetamide
Diketene (0.98 mL, 12.7 mmol, 1.50 equiv) was added at 0° C. to a stirred solution of 1-[3-(N-methylamino)propyl]-4,4-diphenylpiperidine (2.61 g, 8.46 mmol, 1.00 equiv) in anhydrous toluene (30 mL) under argon, and stirring was continued for 1 hour. After removal of the solvent, the residue was purified by flash chromatography (SiO2, EtOAc-MeOH-isopropylamine 9:1:0 to 6:1:0.1) to afford 2.97 g (89%) of brown oil, which was characterized spectroscopically.

reactant | Diketene | 12.7 mmol, 0.98 mL, 1.50 equiv | C=C1CC(=O)O1 | C4H4O2
reactant | 1-[3-(N-methylamino)propyl]-4,4-diphenylpiperidine | 8.46 mmol, 2.61 g, 1.00 equiv | CNCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H28N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N-[3-(4,4-Diphenylpiperidin-1-yl)propyl]-N-methylacetoacetamide | 2.97 g, 89% | C1(=CC=CC=C1)C1(CCN(CC1)CCCN(C(CC(=O)C)=O)C)C1=CC=CC=C1 | C25H32N2O2
